US08110687B2
To a stirred solution of 4-[(7-amino-5,6,7,8-tetrahydronaphthalen-2-yl)oxy]-N-methylpyridine-2-carboxamide (25 mg) in DMA (1 mL) were added 3-fluoro-4-methoxybenzoic acid (16 mg, 0.094 mmol), DIPEA (26 μL), and a solution of TBTU (41 mg, 0.128 mmol) in DMA:NMP (1:1 v/v, 1 mL). The reaction mixture was allowed to stir at rt for 24 h. Water was added and the mixture was extracted with DCM. The organic solution was concentrated and purified by reverse phase HPLC to give 4-({7-[(3-fluoro-4-methoxybenzoyl)amino]-5,6,7,8-tetrahydronaphthalen-2-yl}oxy)-N-methylpyridine-2-carboxamide (26.5 mg, 70%). LCMS: (AA) ES+450.5.

reactant | 4-[(7-amino-5,6,7,8-tetrahydronaphthalen-2-yl)oxy]-N-methylpyridine-2-carboxamide | 25 mg | NC1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C(=O)NC | C17H19N3O2
reactant | 3-fluoro-4-methoxybenzoic acid | 0.094 mmol, 16 mg | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
reactant | DIPEA | 26 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.128 mmol, 41 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA NMP | 1 mL | CC(=O)N(C)C.CN1CCCC1=O
solvent | Water | O | H2O
product | 4-({7-[(3-fluoro-4-methoxybenzoyl)amino]-5,6,7,8-tetrahydronaphthalen-2-yl}oxy)-N-methylpyridine-2-carboxamide | 26.5 mg, 70% | FC=1C=C(C(=O)NC2CCC=3C=CC(=CC3C2)OC2=CC(=NC=C2)C(=O)NC)C=CC1OC | C25H24FN3O4
